US07915270B2
5-(2-(7-Phenylheptanoyl)oxazol-5-yl)pyrimidine-2,4(1H,3H)-dione
The title compound was prepared from 1-(5-(2,4-dimethoxypyrimidin-5-yl)oxazol-2-yl)-7-phenylheptan-1-one (15 mg, 0.038 mmol) following General Procedure H. Flash chromatography (EtOAc) yielded the title compound as a white solid (10 mg, 71%): 1H NMR (CDCl3, 400 MHz) δ 7.90 (s, 1H), 7.71 (s, 1H), 7.28-7.24 (m, 2H), 7.18-7.14 (m, 3H), 2.99 (t, J=7.5 Hz), 2.52 (t, 2H, J=7.8 Hz), 1.67 (quint, 2H, J=7.3 Hz), 1.55 (quint, 2H, J=7.4 Hz), 1.33-1.31 (m, 4H); 13C NMR (CDCl3, 100 MHz) δ 188.8, 160.9, 155.4, 150.6, 147.4, 142.5, 139.0, 128.2, 128.0, 126.0, 125.4, 102.6, 38.6, 35.6, 31.1, 28.8, 28.8, 23.8; MALDI-FTMS m/z 368.1613 (M+H+, C20H21N3O4, requires 368.1610).

reactant | 1-(5-(2,4-dimethoxypyrimidin-5-yl)oxazol-2-yl)-7-phenylheptan-1-one | 0.038 mmol, 15 mg | COC1=NC=C(C(=N1)OC)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H25N3O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-(7-Phenylheptanoyl)oxazol-5-yl)pyrimidine-2,4(1H,3H)-dione | 10 mg, 71% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C(NC(NC1)=O)=O | C20H21N3O4
